US06306895B1
To a solution of (2S)-6-benzyloxy-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hex-4-yne (2.2 g, 5.4 mmol) in dry methanol (20 ml) was added 10% Pd/C (250 mg) and the mixture stirred under H2 at room temperature for 4 h. The reaction mixture was filtered through celite, washed with excess methanol. Evaporation of the solvent afforded a crude product which was purified by silica gel column using ethyl acetate-light petroleum (2:3) as eluent to give (2S)-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hexan-6-ol (1.3 g, 76%) as a colourless liquid. TLC:ethyl acetate-light petroleum (2.3), Rf=0.3. 1H NMR (CDCl3, 200 MHz) δ 1.5-1.7 (m, 6H), 3.35 (s, 3H), 3.5 (t, J=4.8 Hz, 2H), 3.65 (t, J=4.8 Hz, 2H), 3.7-3.8 (m, 2H), 3.85-3.95 (s, 3H), 4.75-4.95 (dd, J=12.6, 6.0 Hz, 2H), 6.75-7.0 (m, 4H).

reactant | (2S)-6-benzyloxy-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hex-4-yne | 5.4 mmol, 2.2 g | C(C1=CC=CC=C1)OCC#CC[C@@H](COC1=CC=C(C=C1)F)OCOCCOC | C23H27FO5
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | (2S)-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hexan-6-ol | 1.3 g, 76% | FC1=CC=C(OC[C@H](CCCCO)OCOCCOC)C=C1 | C16H25FO5
